US07977344B2
2-(Butyloxy)-8-(methyloxy)-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine (Isomer 1)
A stirring mixture of N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt (3.25 gm) and potassium carbonate (3.83 gm) in dry N,N-dimethylformamide (30 ml) was heated with stirring at 60° C. for 1 h. Tetrahydro-3-furanylmethyl methanesulfonate (2 gm, Isomer 1) was added and the stirring mixture heated at 90° C. for 3 h. The solvent was evaporated, water was added and the mixture extracted three times with ethyl acetate. The combined extracts were washed with water then brine, dried by passing through a hydrophobic frit and stripped to give an orange solid. This was purified by C18 reverse phase chromatography using water (0.1% formic acid)-acetonitrile (0.05% formic acid) as eluent (20-60%) and the appropriate fractions combined and evaporated to give the title compound as a light orange solid, yield 1.56 gm.

reactant | N2-butyl-8-methoxy-9H-purine-2,6-diamine trifluoroacetic acid salt | 3.25 gm | FC(C(=O)O)(F)F.C(CCC)NC1=NC(=C2N=C(NC2=N1)OC)N
reactant | potassium carbonate | 3.83 gm | C([O-])([O-])=O.[K+].[K+]
reactant | Tetrahydro-3-furanylmethyl methanesulfonate | 2 gm | CS(=O)(=O)OCC1COCC1 | C6H12O4S
reactant | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(Butyloxy)-8-(methyloxy)-9-(tetrahydro-3-furanylmethyl)-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC1COCC1)OC)N | C15H23N5O3
